* C:\Users\spider\Desktop\laser2\Sensor_Box_Magnetometer_AFE\sim\Laser_sim.asc
M1 N004 Vg N002 N002 AO3423
V1 V+ 0 15
V2 0 V- 15
V3 Vctrl 0 PULSE(0 1 0 100u 100u 0 200u)
R3 V+ N002 10
R2 N001 Iout 1k
R5 N002 N001 10k
R6 V+ N003 10k
R4 N003 0 1k
R7 Vg Vctrl 10k
D1 N004 0 NSSWS108T
V4 Vctrl_DC 0 0.5
XU1 Iout Vctrl V+ V- Vg 0 ADA4898
XU2 N003 N001 V+ V- Iout 0 ADA4898
.model D D
.lib C:\Users\spider\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\spider\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 400u
.lib ADA4898.lib
.backanno
.end
